US08440662B2
Step 2: 4-(3-{4-[8-(6-Fluoro-pyridin-3-yl)-4-morpholin-4-yl-quinazolin-2-yl]-phenyl}-ureido)-N,N-dimethyl-benzamide
To a 50 mL round bottom flask, 2-chloro-8-(6-fluoro-pyridin-3-yl)-4-morpholin-4-yl-quinazoline (70 mg, 0.000203 mol), N,N-dimethyl-4-{3-{4-(4,4,5,5,-tetramethyl-[1,3,2] dioxaborolan-2-yl)-phenyl]-ureido]-benzamide (100 mg, 0.0002436 mol), cesium carbonate (133 mg, 0.000406 mol), DMF (3.5 mL) and water (0.9 mL) were added. The reaction mixture was degassed with nitrogen for 5-10 min. To the same reaction flask, Pd(PPh3)2Cl2 (7 mg, 0.0000101 mol) was added and again degassed with nitrogen for 5-10 min. The reaction mixture was stirred at 95° C. for 2 h. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude product. The crude product was purified using column chromatography (60-120 silica gel, 2% MeOH in chloroform) to yield the title compound as a light yellow solid [8 mg, 7%]. 1H NMR (400 MHz, DMSO-d6): δ 8.99 (s, 1H), 8.95 (s, 1H), 8.60 (s, 1H), 8.43 (m, 1H), 8.28 (d, J=8.8 Hz, 2H), 8.07 (d, J=8.4 Hz, 1H), 7.95 (d, J=7.2 Hz, 1H), 7.58 (m, 3H), 7.49 (m, 2H), 7.39 (m, 3H), 3.84 (s, 8H), 2.95 (s, 6H); LC-MS (ESI): Calculated mass: 591.2; Observed mass: 591.9 [M+H]+ (RT: 1.53 min).

reactant | 2-chloro-8-(6-fluoro-pyridin-3-yl)-4-morpholin-4-yl-quinazoline | 0.000203 mol, 70 mg | ClC1=NC2=C(C=CC=C2C(=N1)N1CCOCC1)C=1C=NC(=CC1)F | C17H14ClFN4O
reactant | N,N-dimethyl-4-{3-{4-(4,4,5,5,-tetramethyl-[1,3,2] dioxaborolan-2-yl)-phenyl]-ureido]-benzamide | 0.0002436 mol, 100 mg | CN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C22H28BN3O4
reactant | cesium carbonate | 0.000406 mol, 133 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 3.5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.0000101 mol, 7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.9 mL | O | H2O
product | 4-(3-{4-[8-(6-Fluoro-pyridin-3-yl)-4-morpholin-4-yl-quinazolin-2-yl]-phenyl}-ureido)-N,N-dimethyl-benzamide | 8 mg, 7% | FC1=CC=C(C=N1)C=1C=CC=C2C(=NC(=NC12)C1=CC=C(C=C1)NC(NC1=CC=C(C(=O)N(C)C)C=C1)=O)N1CCOCC1 | C33H30FN7O3
